US08492372B2
1-[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]-N,N-DIMETHYLMETHANAMINE
Preparation according to Example 34 using 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine (7 mg, 0.021 mmol), N-methylmethanamine (2.0 M in MeOH, 0.5 ml) and EtOH (3 ml). MS m/z (rel. intensity, 70 eV) 289 (M+, 0.2), 141 (2), 95 (4), 75 (5), 59 (4), 58 (bp).

reactant | 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.021 mmol, 7 mg | BrCC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C10H10BrFO4S
reactant | N-methylmethanamine | 2.0 M, 0.5 ml | CNC | C2H7N
solvent | EtOH | 3 ml | CCO | C2H6O
product | 1-[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]-N,N-DIMETHYLMETHANAMINE | FC1=CC(=CC=2OC(OCC21)CN(C)C)S(=O)(=O)C | C12H16FNO4S
